US05312829
To a solution of 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoic acid (400 mg) in dichloromethane (10 ml) were added oxalyl chloride (0.1 ml) and a drop of N,N-dimethylformamide at 0° C. After stirred at 20° C. for 1 hour, the,mixture was evaporated to give 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl chloride (450 mg) as pale yellow oil.

reactant | 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoic acid | 400 mg | C(C(C)C)C1=CC=C(C=C1)C(CC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)CC(C)C | C29H34O2
reactant | oxalyl chloride | 0.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl chloride | 450 mg | C(C(C)C)C1=CC=C(C=C1)C(CC1=CC=C(C(=O)Cl)C=C1)C1=CC=C(C=C1)CC(C)C | C29H33ClO
